US05750545
(1) Methyl 4-fluorobenzoate
A solution of 4-fluorobenzoic acid (25.0 g), 1,2-dichloroethane (120 ml), methanol (21.7 ml) and concentrated sulfuric acid (0.8 ml) was stirred for 16.5 hours with refluxing. After the reaction, the reaction mixture was poured into a saturated aqueous sodium hydrogencarbonate solution, extracted with chloroform, and washed with saturated brine. The mixture was dried over magnesium sulfate, and the solvent was distilled away under reduced pressure to give 23.0 g of a colorless transparent liquid (yield 84%).

reactant | 4-fluorobenzoic acid | 25.0 g | FC1=CC=C(C(=O)O)C=C1 | C7H5FO2
reactant | 1,2-dichloroethane | 120 ml | ClCCCl | C2H4Cl2
reactant | sulfuric acid | 0.8 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | methanol | 21.7 ml | CO | CH4O
product | Methyl 4-fluorobenzoate | 23.0 g, yield 84% | FC1=CC=C(C(=O)OC)C=C1 | C8H7FO2
